US20010044539A1
Ex-30a) Cyclopentanone is treated with potassium-t-butoxide and then with allyl bromide in the same manner and in the same proportions as described for cyclohexanone in Example 6a, yielding 2-allylcyclopentanone.

reactant | Cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | potassium-t-butoxide | CC(C)([O-])C.[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 2-allylcyclopentanone | C(C=C)C1C(CCC1)=O | C8H12O
